US07402595B2
6-bromo-2-(4-hydroxymethylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
To a solution of 6-bromo-2-(4-carboxybenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (4.9 g) in tetrahydrofuran (20 ml) was added a solution (1M, 30 ml) of borane in tetrahydrofuran, and the mixture was stirred at room temperature for 3 hr. The solvent was evaporated under reduced pressure, 1N hydrochloric acid was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried by adding sodium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was purified by recrystallization from methanol to give the title compound (2.97 g, 62%).

reactant | 6-bromo-2-(4-carboxybenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 4.9 g | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)C(=O)O | C25H18BrNO5
reactant | borane | 1M, 30 ml | B | BH3
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 6-bromo-2-(4-hydroxymethylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 2.97 g, 62% | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)CO | C25H20BrNO4
